\** SNSPDLibrary **

.subckt nanowire_thermal_port gate gatereturn drain source T
+ params: Lind=200n width=100n thickness=4n
+ sheetRes=300 Tb=2 Tc=10 Jc=50G Gv=1e-9 C=0.5
* Jc       : critical current density at Tb (A/m^2)
* sheetRes : sheet resistance (ohms/sq)
* Gv       : thermal boundary conductance (W/K^n)
* Tc       : critical temperature (K)
* Tb       : bath temperature (K)
* C        : constriction factor

*--- Dimensions ---
.PARAM length={width*Lind/inductivity}
.PARAM squares={length/width}
.PARAM volume = {length*width*thickness}

*--- Thermal Parameters ---
.PARAM kappa = 0.108
  * thermal conductivity (W/m K)
.PARAM heatCapacity = 4400
  * volumatric heat capacity (J/m^3 K)
.PARAM hc = 50k
  * thermal conductivity (W/m^2 K)
.PARAM Td = 174
  * Debye temperature (K)
.PARAM Nph = 1.16121545e28
  * phonon density (1/m^3)
.PARAM Ne = 4.66e29
  * electron density (1/m^3)
.PARAM Ef = 5*1.6022e-19
  * Fermi energy J()
.PARAM kb = 1.380649e-23
  * Boltzmann's constant (J)
.PARAM alpha = {(12*(pi**4)*kb*Nph)/(5*Td**3)}
.PARAM gamma = {pi**2*Ne*kb**2/(2*Ef)}
  * alpha, gamma: Debye phonon / Einstein electron heat capacity parameters

*--- Electrical/Superconducting Parameters ---
.PARAM inductivity = {1.38p*sheetRes/Tc}
  * kinetic inductance per square (H/sq)
.PARAM  minSquares = {1/sheetRes}
  * # squares for minimum resistance
.PARAM Rnorm = {sheetRes*squares}
  * units of ohms/square
.PARAM Ic = {Jc*width*thickness*C}
  * critical current at T = 0 (A)
.PARAM vo ={sqrt(hc*kappa/thickness)/
+heatCapacity}
  * characteristic velocity
.PARAM rho ={sheetRes*thickness}
  * resistivity (ohm m)

*--- Unitless Parameters ---
.param gain = 1e3
* photon signal amplification factor
.param beta = 1e2
* heat dissapation amplification factor
.PARAM delta = 0.01
  * a small offset value for avoiding
  * singularity in hotspot velocity
  * If delta is made too large, cooling will be suppressed and the
  * nanowire will be more likely to latch (in simulation).
  * It's important to note that delta is only for convenience and
  * assuring convergence of the model, and does not correspond to any
  * physical parameter or process in the device

*--- Numerical helper parameters ---
.PARAM Ind_Z_max = 1e6
* Max inductor impedance (ohms), a few orders of magnitude above the largest expected
* impedance as calculated by Lind_x*2*pi*f_max where f_max = 0.31/t_rise_min
* is the maximum frequency in Hz based on the fastest dynamics of the
* circuit in seconds
* For normal nTron inductors (e.g. 200 squares of 20pH/sq), a rise time of
* 10ps gives about 1kohm max impedance, so 1e6 is acceptable

******************************
** 		 MAIN CIRCUIT 	 	**
******************************

* channel inductor
L_kinetic drain n_hs Flux=({Lind}/(2.0*cos(0.67*
+asin(0.6*x/v(I_sw)))-1))*x Rser = 1e-24 Rpar = {Ind_Z_max}

* hotspot resistance, where v(r_hs) is resistance of hotspot
B_Rhs n_hs source V=IF(v(r_hs)>0, v(r_hs)*i(L_kinetic), 0)

* hotspot resistor limiter (bounded hotspot growth)
R_limiter n_hs source {Rnorm}

* photon arrival sense resistor
R_ph gate gatereturn 1e-100


** --- STATE VARIABLE SUBCIRCUIT --- **

* state tracker, v(N_state)= 0 if wire s/c, v(N_state)= 0 if normal
B_state N_state 0 V=if((abs(i(L_kinetic))>v(I_sw))|(abs(v(n_hs)-v(source))>v(Vthresh)),1,0)


** --- HOTSPOT GROWTH INTEGRATOR SUBCIRCUIT --- **

* hotspot grows/shrinks if in normal state and either hotspot < wire length or I < retrapping current
B_int r_hs 0 V={2*sheetres*vo}/{width}*v(vhs)


** --- RC NONLINEAR THERMAL NETWORK SUBCIRCUIT --- ***

* heating sources
B_ph     0 Ttherm I=abs(i(R_ph))*{gain}
B_joule  0 Ttherm I=abs{v(r_hs)*(I(L_kinetic)**2)*beta}

* cooling (phonon boundary)
.param n = 1
B_therm Ttherm 0 I={(v(T)**n - {Tb}**n) * Gv}


* heat capacity contributions

B_cap_ph Ttherm 0 I = ({volume}*{alpha}*v(T)**3)*ddt(v(T))
B_cap_n Ttherm 0 I = gamma*V(T)*v(norm_region)*ddt(v(T))
B_cap_s1 Ttherm 0 I = ({volume}-V(norm_region))*if(v(T) < {0.2720*Tc},({gamma}*{Tc}*(8.5*exp(-1.44/(v(T)/{Tc}))))*ddt(v(T)),0)
B_cap_s2 Ttherm 0 I = ({volume}-V(norm_region))*if(v(T) > {0.2720*Tc},({gamma}*{Tc}*(-0.1129-0.1827*(v(T)/{Tc})+2.775*(v(T)/{Tc})**2))*ddt(v(T)),0)
* device temperature node
V_temp T Ttherm DC {Tb}

** for checking
*V_alpha alpha_node 0 {volume*alpha}
*V_gamma gamma_node 0 {volume*gamma}


** --- SWITCHING CURRENT --- **
B_I_sw I_sw 0 V=if(v(T) < {Tc}, {Ic}*(1-(V(T)/{Tc})**2)**(3/2), 0)
* used for plotting, can comment out
B_Isw Isw 0 I = v(I_sw)
V_Isw Isw 0 DC 0


** --- RETRAPPING CURRENT --- **
B_I_r I_r 0 v=min(sqrt(2/V(psi))*v(I_sw), v(I_sw))
* used for plotting, can comment out
B_Ir Ir 0 I = v(I_r)
V_Ir Ir 0 DC 0


** --- THRESHOLD VOLTAGE --- **
B_Vthresh Vthresh 0 V={minSquares*sheetRes}*v(I_sw)


** --- STECKLY PARAMETER --- **
B_psi psi 0 V=({sheetRes}*(v(I_sw)/{width*C})**2)/
+({hc}*({Tc}-V(T)))


** --- HOTSPOT DYNAMICS --- **
B_n norm_region 0 V={width*thickness}*v(vhs)
B_vhs vhs 0 V=sdt(if(v(N_state) & ((v(r_hs)<{Rnorm}) | (abs(i(L_kinetic))<v(I_r))),
+((v(psi)*(i(L_kinetic)/v(I_sw))**2-2)
+/((sqrt(((v(psi)*(i(L_kinetic)/v(I_sw))**2-1)+abs(v(psi)*
+(i(L_kinetic)/v(I_sw))**2-1))/2)+{delta}))),0)
+, 0, V(N_state)<0.5)

.backanno
.ends nanowire_thermal_port

